US05536737
d) (S)-2-[[(S)-2-[3-(tert-Butyldimethylsilyloxy)-1-hydroxypropyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide
Triethylamine (0.5 ml), 4-dimethylaminopyridine (20 mg) and tert-butyldimethylsilyl chloride (497 mg) were added to a methylene chloride solution (6 ml) of (S)-2-[[(S)-2-(1,3-dihydroxypropyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide (1.13 g), and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with chloroform, washed with saturated sodium hydrogencarbonate and saturated brine in order, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography (eluent: chloroform-methanol) to give the title compound (1.02 g).

reactant | Triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 497 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
reactant | (S)-2-[[(S)-2-(1,3-dihydroxypropyl)-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 1.13 g | OC(CCO)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C20H29N3O4
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-[[(S)-2-[3-(tert-Butyldimethylsilyloxy)-1-hydroxypropyl]-1-pyrrolidinyl]carbonyl]-N-(phenylmethyl)-1-pyrrolidinecarboxamide | 1.02 g | [Si](C)(C)(C(C)(C)C)OCCC(O)[C@H]1N(CCC1)C(=O)[C@H]1N(CCC1)C(=O)NCC1=CC=CC=C1 | C26H43N3O4Si
